US06001855
4.59 g of (RS)-piperidine-1,3-dicarboxylic acid 1-tert.-butyl ester, 3.51 g of 2-chloro4,6-dimethoxy-[1,3,5]-triazine (CDMT), 60 ml of THF and 2.25 ml of N-MM are stirred under argon at 0° C. for 3 hrs. After the addition of 3.07 g of β-alanine ethyl ester hydrochloride and 2.25 ml of N-MM the mixture is stirred at RT for 18 hrs. The reaction mixture is diluted with ethyl acetate and washed in sequence with ice-cold dilute hydrochloric acid, water, dilute sodium carbonate solution, water and saturated sodium chloride solution. After drying over sodium sulphate and evaporation of the solvent there are obtained 6.16 g of (RS)-3-(2-ethoxycarbonyl-ethylcarbamoyl)-piperidine-1-carboxylic acid tert.-butyl ester as a pale yellow oil. MS: 329 (M+H)+.

reactant | (RS)-piperidine-1,3-dicarboxylic acid 1-tert.-butyl ester | 4.59 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | 2-chloro4,6-dimethoxy-[1,3,5]-triazine | 3.51 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | β-alanine ethyl ester hydrochloride | 3.07 g | Cl.C(C)OC(CCN)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-3-(2-ethoxycarbonyl-ethylcarbamoyl)-piperidine-1-carboxylic acid tert.-butyl ester | 6.16 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(NCCC(=O)OCC)=O | C16H28N2O5
